US08314094B2
2) 4-(aminomethyl)-6-bromo-1-(4-methoxybenzyl)-3-methyl-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one
6-Bromo-1-(4-methoxybenzyl)-3-methyl-4-(nitromethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one (217.3 mg, 0.445 mmol) was dissolved in THF (0.9 mL), methanol (0.9 mL) and water (0.5 mL), and iron (497 mg, 8.9 mmol) and ammonium chloride (476 mg, 8.9 mmol) were sequentially added to the reaction solution at room temperature. The reaction solution was stirred at 90° C. for 2.5 hours and then cooled to room temperature and insoluble substances were removed by Celite filtration. After the solvent was evaporated under reduced pressure, to the residue, chloroform and saturated sodium hydrogen carbonate were added, and the mixture was stirred at room temperature. The organic layer was separated and washed with saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol=1/4), whereby the objective 4-(aminomethyl)-6-bromo-1-(4-methoxybenzyl)-3-methyl-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one (148.3 mg, 72.7%) was obtained as a white solid.

reactant | 6-Bromo-1-(4-methoxybenzyl)-3-methyl-4-(nitromethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one | 0.445 mmol, 217.3 mg | BrC=1C=C2C(N(C(N(C2=CC1)CC1=CC=C(C=C1)OC)=O)C)(C(F)(F)F)C[N+](=O)[O-] | C19H17BrF3N3O4
reactant | methanol | 0.9 mL | CO | CH4O
reactant | water | 0.5 mL | O | H2O
reactant | ammonium chloride | 8.9 mmol, 476 mg | [Cl-].[NH4+]
solvent | THF | 0.9 mL | C1CCOC1 | C4H8O
catalyst | iron | 8.9 mmol, 497 mg | [Fe] | Fe
product | 4-(aminomethyl)-6-bromo-1-(4-methoxybenzyl)-3-methyl-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one | NCC1(N(C(N(C2=CC=C(C=C12)Br)CC1=CC=C(C=C1)OC)=O)C)C(F)(F)F | C19H19BrF3N3O2
